US05236950
0.84 g of sodium hydride was added to a solution of 2.40 g of ethylmercaptan dissolved in 30 ml of N,N-dimethylformamide. Thereinto was dropped 10.00 g of phytyl chloride at 40° C. The resulting mixture was stirred at the same temperature for 3 hours. After the completion of the reaction, the resulting mixture was concentrated under reduced pressure. The residue obtained was dissolved in 30 ml of ethyl acetate. The resulting solution was washed with 1N hydrochloric acid, 3% aqueous sodium hydrogencarbonate solution and water in this order and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluant: n-hexane:ethyl acetate=9:1) to obtain 10.00 g (yield: 92%) of oily ethyl phytyl thioether.

reactant | sodium hydride | 0.84 g | [H-].[Na+]
reactant | ethylmercaptan | 2.40 g | C(C)S | C2H6S
reactant | phytyl chloride | 10.00 g | C(\C=C(/C)\CCC[C@H](C)CCC[C@H](C)CCCC(C)C)Cl | C20H39Cl
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | ethyl phytyl thioether | 10.00 g, yield: 92% | C(\C=C(/C)\CCC[C@H](C)CCC[C@H](C)CCCC(C)C)SCC | C22H44S
